US05610161
Ethanol (4 l) was saturated at 0°-5° C. over 4 hours with hydrogen chloride. 1-Aminocyclohexanecarboxylic acid (600 g) was added in one portion and the mixture was stirred and heated under reflux for 8 hours, then allowed to stand at ambient temperature for 72 hours. The solvent was removed in vacuo and the residue was dissolved in ice-water (1 l) and basified to pH 8-9 at 0°-5° C. by the addition of 2M aqueous sodium hydroxide solution. The product was extracted into dichloromethane (4×300 ml) and the extracts were combined and dried over sodium sulphate. The aqueous residues were basified to pH 10 by the addition of more 2M aqueous sodium hydroxide solution and further product was extracted into dichloromethane (4×200 ml). The extracts were combined and dried over sodium sulphate. The dried dichloromethane extracts were combined and the solvent was removed in vacuo to leave ethyl 1-aminocyclohexanecarboxylate as a pale yellow oil. Yield 669 g.

reactant | hydrogen chloride | Cl | ClH
reactant | 1-Aminocyclohexanecarboxylic acid | 600 g | NC1(CCCCC1)C(=O)O | C7H13NO2
reactant | Ethanol | 4 l | C(C)O | C2H6O
product | ethyl 1-aminocyclohexanecarboxylate | NC1(CCCCC1)C(=O)OCC | C9H17NO2
